US07662968B2
f) 2-Chloromethyl-3-methyl-4-(2,2,2-trifluoroethoxy)pyridine hydrochloride
160 ml of toluene were added to 14.9 g (0.067 mole) of 2-hydroxymethyl-3-methyl-4-(2,2,2-trifluoroethoxy)pyridine in methylene chloride followed by distillation of methylene chloride. The solution was purified with 2.7 g of activated charcoal, filtered and washed with 36 ml of toluene. To this solution 5.4 ml (0.075 mole) of thionyl chloride in 27 ml of toluene were added dropwise and maintained for 3 hours. The gas was removed under vacuum at room temperature, then the resulting mixture was cooled to a temperature of from 0 to 5° C. and stirred for one hour. The product was filtered, washed with 3 ml of toluene and dried in a vacuum dryer at 35-40° C. The yield was 15.65 g (84%).

reactant | 2-hydroxymethyl-3-methyl-4-(2,2,2-trifluoroethoxy)pyridine | 0.067 mole, 14.9 g | OCC1=NC=CC(=C1C)OCC(F)(F)F | C9H10F3NO2
reactant | thionyl chloride | 0.075 mole, 5.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | toluene | 27 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Chloromethyl-3-methyl-4-(2,2,2-trifluoroethoxy)pyridine hydrochloride | Cl.ClCC1=NC=CC(=C1C)OCC(F)(F)F | InChI=1S/C9H9ClF3NO.ClH/c1-6-7(4-10)14-3-2-8(6)15-5-9(11,12)13;/h2-3H,4-5H2,1H3;1H
